US06894061B2
4-Methoxy-3-(trifluoromethyl)benzenesulfonyl chloride
A solution of 1-methoxy-2-(trifluoromethyl)benzene (10.0 g, 56.8 mmol) in dry chloroform (76 mL) was cooled to 0° C. and treated with chlorosulfonic acid (7.55 mL, 113.5 mmol) drop-wise under argon. After the addition was completed, the reaction mixture was gradually warmed to room temperature and stirred overnight. The reaction was quenched by pouring the mixture slowly onto ice. The separated, aqueous phase was extracted with chloroform (3×). The combined organic phase was washed sequentially with a saturated, aqueous sodium chloride solution (2×) and water. The organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo to yield the title compound (8.77 g. 31.9 mmol, 56%) as a gray solid;

reactant | 1-methoxy-2-(trifluoromethyl)benzene | 56.8 mmol, 10.0 g | COC1=C(C=CC=C1)C(F)(F)F | C8H7F3O
reactant | chlorosulfonic acid | 113.5 mmol, 7.55 mL | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 76 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Methoxy-3-(trifluoromethyl)benzenesulfonyl chloride | 31.9 mmol, 8.77 g, 56% | COC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C8H6ClF3O3S
